* Author: Icaro Mendes
* SPICE netlist for RC network

*********************************
* Set circuit temperature
*********************************
.temp 25

*********************************
* Circut components
*********************************
Vin x1 0 PWL(0, 0 50m, 0 51m, 5 100m, 5, 101m, 0)
R1  x1 x2 10k
C1  x2  0 1uF

*********************************
* Run transient analysis
*********************************
.tran 1ms 200ms 

*********************************
* End of simulation
*********************************
.end 

*********************************
* End of file
*********************************
